US07943622B2
Step 1. Synthesis of tert-butyl 4-(4-(morpholine-4-carbonyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate
Diisoproylcarbodiimide (0.028 mL, 0.178 mmol) was added to a solution of 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylic acid (68 mg, 0.162 mmol), morpholine (16 mg, 0.178 mmol), diisopropylethylamine (0.031 mL, 0.178 mmol), and N-hydroxybenzotriazole (24 mg, 0.178 mmol) in CH2Cl2 (2 mL). After stirring overnight, little reaction had taken place. TBTU (0.162 mmol) was added, and stirring was continued at rt for 4 h. The reaction mixture was quenched with 1 N NaOH (2 mL) and stirred for 1 h. The reaction mixture was diluted with EtOAc (20 mL) and was washed with 1 N NaOH (2×10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by column chromatography (50 to 100% EtOAc in hexanes gradient), yielding 35.4 mg (45%) of the title compound. LC-MS: RT=6.77 min, [M+H]+=490.9. Rf=0.07 in 100% EtOAc.

reactant | Diisoproylcarbodiimide | 0.178 mmol, 0.028 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 2-(4-(tert-butoxycarbonyl)-2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxylic acid | 0.162 mmol, 68 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1SC=C(N1)C(=O)O)COC=1C=NC=CC1 | C19H24N4O5S
reactant | morpholine | 0.178 mmol, 16 mg | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 0.178 mmol, 0.031 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-hydroxybenzotriazole | 0.178 mmol, 24 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | TBTU | 0.162 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-(morpholine-4-carbonyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 35.4 mg, 45% | N1(CCOCC1)C(=O)C=1N=C(SC1)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C23H31N5O5S
